US05990108
A mixture of 0.68 g of diethyl 4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2,9-diacetate and 20 ml of 6 N hydrochloric acid is heated for 16 hours at a temperature close to 100° C. The reaction mixture is cooled on a water and ice bath and the suspension is filtered. The insoluble matter is washed with 3×10 ml of acetone and dried under vacuum (1 mm Hg; 0.13 kPa) at close to 60° C. 0.43 g of 4,5dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2,9-diacetic acid hydrochloride is obtained in the form of a dark beige solid melting above 250° C. [Analysis: C17H13N3O5, HCl, % calculated C: 54.34, H: 3.76, Cl: 9.43, N: 11.18, O: 21.29, % found C: 53.9, H: 3.4, Cl: 9.8, N: 10.9, O: 20.9].

reactant | diethyl 4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2,9-diacetate | 0.68 g | O=C1C=2N(C3=C(N1)C=1C=CC=C(C1C3)CC(=O)OCC)C=C(N2)CC(=O)OCC | C21H21N3O5
reactant | hydrochloric acid | 6 N, 20 ml | Cl | ClH
solvent | water | O | H2O
product | 4,5dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2,9-diacetic acid hydrochloride | 0.43 g | Cl.O=C1C=2N(C3=C(N1)C=1C=CC=C(C1C3)CC(=O)O)C=C(N2)CC(=O)O | InChI=1S/C17H13N3O5.ClH/c21-13(22)4-8-2-1-3-10-11(8)6-12-15(10)19-17(25)16-18-9(5-14(23)24)7-20(12)16;/h1-3,7H,4-6H2,(H,19,25)(H,21,22)(H,23,24);1H
